US08022208B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (72 mg), 1-hydroxybenzotriazole (62 mg), triethylamine (64 μl) and 2-amino-N-(5-chloro-2-pyridinyl)-3-hydroxybenzamide (121 mg) were added to an N,N-dimethylformamide solution (3 ml) of 4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoic acid (88 mg), followed by stirring at room temperature for 14 hours. After this, water (30 ml) was added to the reaction solution, and the precipitated insoluble solid was collected by filtration. The resulting solid was dried at 60° C. under reduced pressure, then tetrahydrofuran (5 ml), N,N-dimethylformamide (1 ml) and acetic acid (104 μl) were added to the solid, followed by stirring under heating at 60° C. for 2 days. After this, the reaction solution was concentrated under reduced pressure, an aqueous saturated sodium hydrogencarbonate solution (30 ml) was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine, dried with magnesium sulfate, and concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (chloroform:methanol=97:3). The purified product was suspended in ethanol, 1 M hydrochloric acid (324 μl) was added, followed by concentration under reduced pressure. The residue was recrystallized from ethanol to obtain N-(5-chloropyridin-2-yl)-3-hydroxy-2-{[4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoyl]amino}benzamide hydrochloride (123 mg).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 72 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 62 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-amino-N-(5-chloro-2-pyridinyl)-3-hydroxybenzamide | 121 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1O | C12H10ClN3O2
reactant | 4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoic acid | 88 mg | CN1C=C(C(C=C1)=O)C1=CC=C(C(=O)O)C=C1 | C13H11NO3
solvent | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 64 μl | C(C)N(CC)CC | C6H15N
product | N-(5-chloropyridin-2-yl)-3-hydroxy-2-{[4-(1-methyl-4-oxo-1,4-dihydropyridin-3-yl)benzoyl]amino}benzamide hydrochloride | 123 mg | Cl.ClC=1C=CC(=NC1)NC(C1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C1=CN(C=CC1=O)C)=O)=O | InChI=1S/C25H19ClN4O4.ClH/c1-30-12-11-20(31)19(14-30)15-5-7-16(8-6-15)24(33)29-23-18(3-2-4-21(23)32)25(34)28-22-10-9-17(26)13-27-22;/h2-14,32H,1H3,(H,29,33)(H,27,28,34);1H
